US06277790B1
N-(2,4-Dimethylthiophen-3-yl)-N-n-propylcarbamoyl chloride (No. III.66)
54.5 g (0.54 mol) of phosgene, 31 g (0.18 mol) of 2,4-dimethylthiophen-3-yl-(n-propyl)amine and 18.5 g (0.18 mol) of triethylamine were reacted similarly to the process described in Intermediate 1.2. Yield 40 g. MS (m/z): 231 [M]+, 202 [M−C2H5]+, 196 [M−Cl]+.

reactant | phosgene | 0.54 mol, 54.5 g | C(=O)(Cl)Cl | CCl2O
reactant | 2,4-dimethylthiophen-3-yl-(n-propyl)amine | 0.18 mol, 31 g | CC=1SC=C(C1NCCC)C | C9H15NS
reactant | triethylamine | 0.18 mol, 18.5 g | C(C)N(CC)CC | C6H15N
product | N-(2,4-Dimethylthiophen-3-yl)-N-n-propylcarbamoyl chloride | CC=1SC=C(C1N(C(=O)Cl)CCC)C | C10H14ClNOS
